US07560586B2
(R)-2-(3-{3-[[2-Fluoromethoxybenzyl](2,2-diphenylethyl)amino]-1-methyl-propoxy}phenyl)acetic acid hydrochloride salt
Following the procedure of Example 7(d) except (R)-2-(3-{3-[(2,2-diphenylethyl)amino]-1-methyl-propoxy}phenyl)acetic acid and 2-fluoro-4-methoxybenzaldehyde were used instead of (R)-2-(3-{3-(2,2-diphenylethyl)amino]-3-methyl-propoxy}-phenyl)acetic acid methyl ester and 2-chloro-3-trifluoromethylbenzaldehyde in step (d) the corresponding carboxylic acid was obtained. The crude product was purified by preparative HPLC (TMC CombiPrep PDS, 75×30 mm, 25 mL/min, acetonitrile: H2O, UV detection at 254 nm) to afford the free base. The resulting amine/carboxylic acid was dissolved in Et2O (diethylether) and acidified with 1.0 M HCl/Et2O. The reaction mixture was concentrated in vacuo and dried under reduced pressure to give the title compound as a white solid, 88 mg (87%). MS (ESI) 542.4 (M+H+).

reactant | (R)-2-(3-{3-[(2,2-diphenylethyl)amino]-1-methyl-propoxy}phenyl)acetic acid | C1(=CC=CC=C1)C(CNCC[C@H](OC=1C=C(C=CC1)CC(=O)O)C)C1=CC=CC=C1 | C26H29NO3
reactant | 2-fluoro-4-methoxybenzaldehyde | FC1=C(C=O)C=CC(=C1)OC | C8H7FO2
reactant | acetic acid methyl ester | COC(C)=O | C3H6O2
reactant | 2-chloro-3-trifluoromethylbenzaldehyde | ClC1=C(C=O)C=CC=C1C(F)(F)F | C8H4ClF3O
reactant | HCl Et2O | 1.0 M | Cl.CCOCC
solvent | Et2O | CCOCC | C4H10O
product | (R)-2-(3-{3-[[2-Fluoromethoxybenzyl](2,2-diphenylethyl)amino]-1-methyl-propoxy}phenyl)acetic acid hydrochloride salt | Cl.FCOC1=C(CN(CC[C@H](OC=2C=C(C=CC2)CC(=O)O)C)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | InChI=1S/C34H36FNO4.ClH/c1-26(40-31-17-10-11-27(21-31)22-34(37)38)19-20-36(23-30-16-8-9-18-33(30)39-25-35)24-32(28-12-4-2-5-13-28)29-14-6-3-7-15-29;/h2-18,21,26,32H,19-20,22-25H2,1H3,(H,37,38);1H/t26-;/m1./s1
